* AA864 (Blackface Bassman-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published
* "BASSMAN-AMP AA864" drawing's component values (see meta.yaml); no drawing
* reproduced. The sheet labels the preamp bottles 7025 — an alias for the 12AX7
* (reference/tubes/12ax7.yaml also_known_as) — and the output pair 6L6GC, which
* instantiates models/6l6gc.inc, the 6L6GC's own clean-room fit
* (reference/tubes/6l6gc.yaml, models/METHODOLOGY.md).
*
* DC conventions. Two printed rail nodes are driven at their charted values and
* every stage below is solved: BPL = +422 V (OT centre tap / 6L6 plate rail, OT
* primary DCR omitted) and BSC = +420 V (the screen rail on the far side of the
* choke, TR2 — the choke's DCR is not modelled because both of its ends are
* printed). The 6L6 screens hang off BSC through their 470 Ohm-1W stoppers. The
* two rails below are then DERIVED through the drawn droppers: BPI (PI plates)
* through the 1 kOhm-1W, and BPR (preamp) through the 4.7 kOhm-1W.
*
* THE PREAMP RAIL BPR — two sheets, two figures. The circuit sheet prints +410 V
* above the 4.7 kOhm dropper and +340 V below it, which would demand 14.9 mA
* through that resistor; the five 100 kOhm-loaded preamp triodes it feeds cannot
* draw a third of that. The LAYOUT sheet marks the same eyelet +380 V, and that
* figure closes: the plates' own printed voltages price the draw at 6.90 mA, a
* 32 V drop from +410. The drawn resistor is kept and BPR solved (379 V) rather
* than driven; voltages.yaml gates it against the layout sheet's +380 V and
* records the circuit sheet's +340 V as the figure that does not close.
*
* Fixed-bias supply (305 V AC tap + 470 Ohm-1W + silicon diode + 25 uF/50 V can +
* 10k-L / 15k divider) is replaced by an ideal -44 V source, exactly as its
* AC/ripple-filtering role warrants. The 820 Ohm negative-feedback resistor from
* the OT secondary sits at ~0 V DC and is omitted, as in the corpus's other
* blackface circuits; the 100 Ohm it works into IS modelled, because the phase
* inverter's 22k tail returns through it.
*
* DC-open caps are MODELLED where BOTH leads land on a named DC node (every
* cathode-bypass can, the interstage couplers, the 0.005 uF across the driver's
* plate load, the 0.001 uF across the divider foot, the PI cold-grid 0.1/200) so an
* eventual layout is placement-checked; open at DC they move no operating point.
* Caps into the abstracted tone / volume networks stay omitted — no DC path runs
* through either tone stack (both slope chains reach ground only through 0.1 uF).
.include models/12ax7.inc
.include models/12at7.inc
.include models/6l6gc.inc

VBPL BPL 0 DC 422
VBSC BSC 0 DC 420
VBIAS NBIAS 0 DC -44

* rail droppers, both 1 W on the sheet
RD1 BSC BPI 1k
RD2 BPI BPR 4.7k

* --- Bass channel input V1a (7025): 100k plate, 1.5k cathode (25uF/25V), grid
*     returned to ground through the input jacks' 1M leak (68k stoppers carry no
*     DC). Plate rail BPR.
RLB1 BPR PB1 100k
XV1A PB1 GB1 KB1 12AX7
RGB1 GB1 0 1meg
RKB1 KB1 0 1500
CKB1 KB1 0 25u

* --- Bass channel 2nd stage V1b (7025): 100k plate, 1.5k cathode (25uF/25V);
*     its grid returns through the 250k Bass volume pot (~0 V DC).
RLB2 BPR PB2 100k
XV1B PB2 GB2 KB2 12AX7
RGB2 GB2 0 250k
RKB2 KB2 0 1500
CKB2 KB2 0 25u

* --- Bass channel driver V3b (7025), the third gain stage this channel has and
*     the Normal channel does not. Its grid is fed from V1b through a 0.1 uF
*     coupler into a 220k/220k divider (0.001 uF across the foot), so the grid sits
*     at 0 V DC. 100k plate load with 0.005 uF across it; the 1.5k cathode is
*     UNBYPASSED — the only preamp cathode on the sheet without a can.
CCB2 PB2 NDIV 0.1u
RDV1 NDIV GB3 220k
RDV2 GB3 0 220k
CDV  GB3 0 0.001u
RLB3 BPR PB3 100k
CLB3 PB3 BPR 0.005u
XV3B PB3 GB3 KB3 12AX7
RKB3 KB3 0 1500

* --- Normal channel input V2a (7025): identical topology to V1a, plate rail BPR.
RLN1 BPR PN1 100k
XV2A PN1 GN1 KN1 12AX7
RGN1 GN1 0 1meg
RKN1 KN1 0 1500
CKN1 KN1 0 25u

* --- Normal channel 2nd stage V2b (7025): grid returns through the 1M Normal
*     volume pot (~0 V DC).
RLN2 BPR PN2 100k
XV2B PN2 GN2 KN2 12AX7
RGN2 GN2 0 1meg
RKN2 KN2 0 1500
CKN2 KN2 0 25u

* --- Channel mix. Both channels meet at NMIX through their own 220k, and the
*     mixed signal reaches the phase inverter through a 500 pF coupler. No DC
*     flows: the two plates sit within a volt of each other and the coupler is
*     open.
RMXB PB3 NMIX 220k
RMXN PN2 NMIX 220k
CPI  NMIX GPA 500p

* --- Phase inverter V4 (12AT7 long-tailed pair): 82k (hot) and 100k (cold) 5%
*     plate loads from BPI; cathodes joined at KPI, 470 Ohm to the tail junction
*     JPI, 22k tail from JPI to the feedback node NFB, 100 Ohm from NFB to
*     ground; both 1M grid leaks return to JPI. The cold grid is AC-coupled to
*     NFB through the 0.1/200 (DC-open).
RLPA BPI PPA 82k
XV4A PPA GPA KPI 12AT7
RGPA GPA JPI 1meg
RLPB BPI PPB 100k
XV4B PPB GPB KPI 12AT7
RGPB GPB JPI 1meg
RTAIL KPI JPI 470
RT2 JPI NFB 22k
RNF NFB 0 100
CPIB NFB GPB 0.1u

* --- Output pair 6L6GC (fixed bias): 0.1 uF couplers into 220k-5% grid leaks
*     returned to the -44 V line, then 1.5k grid stoppers; screens off BSC
*     through 470 Ohm-1W; cathodes grounded; plates at BPL (OT primary DCR
*     omitted). Two distinct single-ended bottles V5 / V6 — naming them XV5A /
*     XV5B would collapse them into one dual-section bottle.
C1 PPA GG1 0.1u
RGL1 NBIAS GG1 220k
RGS1 GG1 G61 1500
XV5 BPL S61 G61 0 6L6GC
RS1 BSC S61 470
C2 PPB GG2 0.1u
RGL2 NBIAS GG2 220k
RGS2 GG2 G62 1500
XV6 BPL S62 G62 0 6L6GC
RS2 BSC S62 470
